US04163059
4,5-Dichloro-3-(2,4-dimethyl-phenylimino)-1,2-dithiolene
14.0 g of 2,4-dimethyl-aniline were dissolved in 300 ml of methylene chloride and 50 ml of triethylamine and 31.0 g of 3,4,5-trichloro-1,2-dithiolium chloride were introduced at 10°-15° C. After stirring for three hours at 20° C., a test for aromatic amine, by diazotizing and coupling, proved negative. The resulting dark solution was then washed three times with 200 ml of water, dried over potassium carbonate and filtered over a column of aluminum oxide, to remove impurities that imparted a color. The filtrate was concentrated and caused to crystallize by adding petroleum ether. Yield, 17.0 g of yellowish crystals; melting point: 72°-74° C. The elementary analysis and NMR spectrum agreed with the assumed structure.

reactant | 2,4-dimethyl-aniline | 14.0 g | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trichloro-1,2-dithiolium chloride | 31.0 g | [Cl-].ClC=1S[S+]=C(C1Cl)Cl
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 4,5-Dichloro-3-(2,4-dimethyl-phenylimino)-1,2-dithiolene | ClC=1C(SSC1Cl)=NC1=C(C=C(C=C1)C)C | C11H9Cl2NS2
